US07109186B2
Compound 835: 4-Hydroxy-5-oxo-1-[2-(1-oxo-1λ4-thiomorpholin-4-yl)-ethyl]-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide
To a stirred solution of 4-hydroxy-5-oxo-1-(2-thiomorpholin-4-yl-ethyl)-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide (108 mg, 0.243 mmol) in water (20 mL) was added 30% hydrogen peroxide (0.3 mL). After stirring overnight the reaction mixture was lyophilized to give the title compound as a white powder. 1HNMR (500 MHz, CDCl3) δ: 7.42 (1H, d, J=8.5 Hz), 7.34 (1H, s), 7.10 (1H, d, J=8.2 Hz), 4.59 (2H, s), 4.28 (2H, s), 3.89 (2H, t, J=5.8 Hz), 3.74–3.70 (2H, m), 3.63 (2H, t, J=11.9 Hz), 3.29–3.24 (2H, m), 3.18 (2H, t, J=11.9 Hz), 3.07–2.99 (2H, m), 3.01 (3H, s). HRMS calcd for C19H24Cl2N3O4S (M+H): 460.0865. found: 460.0884.

reactant | 4-hydroxy-5-oxo-1-(2-thiomorpholin-4-yl-ethyl)-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide | 0.243 mmol, 108 mg | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)CCN2CCSCC2)C)C=CC1Cl | C19H23Cl2N3O3S
reactant | hydrogen peroxide | 0.3 mL | OO | H2O2
solvent | water | 20 mL | O | H2O
product | 4-Hydroxy-5-oxo-1-[2-(1-oxo-1λ4-thiomorpholin-4-yl)-ethyl]-2,5-dihydro-1H-pyrrole-3-carboxylic acid (3,4-dichloro-benzyl)-methyl-amide | ClC=1C=C(CN(C(=O)C=2CN(C(C2O)=O)CCN2CCS(CC2)=O)C)C=CC1Cl | C19H23Cl2N3O4S
